US04396621
3 g of magnesium curlings and 30 ml of anhydrous tetrahydrofuran are initially introduced into a sulfonation flask and 13.5 g of ethyl bromide are added in order to prepare ethyl-magnesium bromide. After the magnesium has dissolved, 6.1 g of 2-aminothiophen, dissolved in 60 ml of absolute tetrahydrofuran, are added dropwise and the mixture is stirred for one hour at room temperature and then refluxed for a further 15 minutes. 8 g of . . . 2-acetamido-benzo[b]thiophen-3-carboxylate, dissolved in 100 ml of absolute tetrahydrofuran, are then added dropwise at room temperature. The mixture is then refluxed for 15 minutes and stirred for a further 15 minutes at room temperature, the reaction solution is evaporated in vacuo, dilute hydrochloric acid is added to the evaporation residue and the mixture is extracted twice with chloroform. The chloroform extracts are combined, dried over sodium sulfate and evaporated to dryness in vacuo. Crude N-(2-thienyl)-2-acetamino-benzo[b]thiophen-3-carboxamide is obtained and this can be used without further purification.

reactant | magnesium | 3 g | [Mg] | Mg
reactant | ethyl bromide | 13.5 g | C(C)Br | C2H5Br
reactant | ethyl-magnesium bromide | C(C)[Mg]Br
reactant | 2-aminothiophen | 6.1 g | NC=1SC=CC1 | C4H5NS
reactant | 2-acetamido-benzo[b]thiophen-3-carboxylate | C(C)(=O)NC1=C(C2=C(S1)C=CC=C2)C(=O)[O-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-(2-thienyl)-2-acetamino-benzo[b]thiophen-3-carboxamide | S1C(=CC=C1)NC(=O)C=1C2=C(SC1NC(=O)C)C=CC=C2 | C15H12N2O2S2
